US08486970B2
To a mixed liquid of 2163 mg of 6-tert-butoxynicotinic acid and 32 ml of acetone were added 2297 mg of potassium carbonate and 0.97 ml of methyl iodide, followed by stirring at 35° C. overnight. Ethyl acetate and water were added thereto to carry out liquid separation, and the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 1.191 g of methyl 6-tert-butoxynicotinate.

reactant | 6-tert-butoxynicotinic acid | 2163 mg | C(C)(C)(C)OC1=NC=C(C(=O)O)C=C1 | C10H13NO3
reactant | acetone | 32 ml | CC(=O)C | C3H6O
reactant | potassium carbonate | 2297 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.97 ml | CI | CH3I
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-tert-butoxynicotinate | 1.191 g | C(C)(C)(C)OC1=NC=C(C(=O)OC)C=C1 | C11H15NO3
